US07173043B2
In analogy to example 37.1, 3-Chloro-3-methyl-1-butyne and N-(2-Methoxyethyl)ethylamine were converted to yield (1,1-Dimethyl-prop-2-ynyl)-ethyl-(2-methoxy-ethyl)-amine as colorless oil, MS: 170 (MH+).

reactant | 3-Chloro-3-methyl-1-butyne | ClC(C#C)(C)C | C5H7Cl
reactant | N-(2-Methoxyethyl)ethylamine | COCCNCC | C5H13NO
product | (1,1-Dimethyl-prop-2-ynyl)-ethyl-(2-methoxy-ethyl)-amine | CC(C#C)(C)N(CCOC)CC | C10H19NO
